US20010021718A1
(3R)-6-Cyclohexyl-3-(3-{[3-(methoxycarbonyl)-1 -azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid
A solution of methyl 1-[(5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylate (Preparation 42) (225 mg, 0.48 mmol) in dichloromethane (8 ml) was treated with trifluoroacetic acid (4 ml) and the resulting mixture was stirred at room temperature under a nitrogen atmosphere for 5 hours. The solvent was removed under reduced pressure and the residue azeotroped from toluene (×2). The residue was dissolved in ethyl acetate and washed sequentially with a saturated aqueous solution of sodium citrate and brine, dried over anhydrous sodium sulphate, filtered and the solvent removed under reduced pressure to afford the title compound as an oil (200 mg).

reactant | methyl 1-[(5-{(1R)-1-[2-(tert-butoxy)-2-oxoethyl]-4-cyclohexylbutyl}-1,2,4-oxadiazol-3-yl)carbonyl]-3-azetidinecarboxylate | 0.48 mmol, 225 mg | C(C)(C)(C)OC(C[C@@H](CCCC1CCCCC1)C1=NC(=NO1)C(=O)N1CC(C1)C(=O)OC)=O | C24H37N3O6
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 8 ml | ClCCl | CH2Cl2
product | (3R)-6-Cyclohexyl-3-(3-{[3-(methoxycarbonyl)-1 -azetidinyl]carbonyl}-1,2,4-oxadiazol-5-yl)hexanoic acid | 200 mg | C1(CCCCC1)CCC[C@H](CC(=O)O)C1=NC(=NO1)C(=O)N1CC(C1)C(=O)OC | C20H29N3O6
